US08003651B2
DIPEA (44.4 mg, 0.343 mmol) was added to a suspension of (R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride (20 mg, 0.69 mmol), 2-(4-chlorophenyl)-3-(pyrrolidin-1-yl)propanoic acid (59.8 mg, 0.082 mmol), and O-(1H-Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (31.3 mg, 0.082 mmol) in CH2Cl2 (5.0 mL) at room temperature. The resulting mixture was stirred for 5 days, diluted with EtOAc, washed with saturated aqueous NaHCO3 and saturated aqueous. NH4Cl. The organic layer was dried (MgSO4) and concentrated. The residue was purified by a silica cartridge (5.0 g), and eluted by a mixture of MeOH and CH2Cl2 (3:97 to 5:95) to give 2-(4-chlorophenyl)-1-(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(pyrrolidin-1-yl)propan-1-one dihydrochloride (6 mg, 17%) as an off-white solid.

reactant | DIPEA | 0.343 mmol, 44.4 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride | 0.69 mmol, 20 mg | Cl.Cl.C[C@@H]1CCC=2N=CN=C(C21)N2CCNCC2
reactant | 2-(4-chlorophenyl)-3-(pyrrolidin-1-yl)propanoic acid | 0.082 mmol, 59.8 mg | ClC1=CC=C(C=C1)C(C(=O)O)CN1CCCC1 | C13H16ClNO2
reactant | O-(1H-Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.082 mmol, 31.3 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-chlorophenyl)-1-(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(pyrrolidin-1-yl)propan-1-one dihydrochloride | 6 mg, 17% | Cl.Cl.ClC1=CC=C(C=C1)C(C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CC[C@H]2C)CN2CCCC2 | InChI=1S/C25H32ClN5O.2ClH/c1-18-4-9-22-23(18)24(28-17-27-22)30-12-14-31(15-13-30)25(32)21(16-29-10-2-3-11-29)19-5-7-20(26)8-6-19;;/h5-8,17-18,21H,2-4,9-16H2,1H3;2*1H/t18-,21?;;/m1../s1
